US08211908B2
A solution of 0.59 g of tert-butyl (1-(2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate in 30 mL of a 2 mol/L hydrogen chloride/ethanol was stirred at room temperature for 18 hours. To the reaction mixture, 2 mL of chloroform was added, and the mixture was stirred at 40° C. for 4 hours, and stirred at room temperature for 18 hours. In the reaction mixture, the solvent was distilled off under reduced pressure, the mixture was neutralized with a saturated aqueous sodium hydrogen carbonate solution, and then the solvent was distilled off under reduced pressure. The resultant residue was washed with ethanol and, in the mother liquid, the solvent was distilled off under reduced pressure, and the resultant residue was purified with silica gel column chromatography using silica gel; Chromatorex-NH made by Fuji Silysia Chemical Ltd. and an eluent of chloroform:methanol=10:1 to obtain 421 mg of 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one as a light yellow solid.

reactant | tert-butyl (1-(2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate | 0.59 g | FC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C20H27FN4O3
reactant | hydrogen chloride ethanol | 2 mol/L | Cl.C(C)O
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one | 421 mg | NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)F)=O | C15H19FN4O
